US09403818B2
Preparation of methyl 8-(4-(((tert-butoxycarbonyl)-amino)-methyl)-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(4-(((tert-butoxycarbonyl)-amino)-methyl)-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (500 mg, 1.71 mmol) and (4-(((tert-butoxycarbonyl)-amino)-methyl)-phenyl)-boronic acid (516 mg, 2.06 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (850 mg, 100%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 1.71 mmol, 500 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | (4-(((tert-butoxycarbonyl)-amino)-methyl)-phenyl)-boronic acid | 2.06 mmol, 516 mg | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)B(O)O | C12H18BNO4
product | methyl 8-(4-(((tert-butoxycarbonyl)-amino)-methyl)-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 850 mg, 100% | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C27H30N2O5
